US07626056B2
{[8-(Cyclopropylmethyl)-1,4-dioxaspiro[4.5]dec-8-yl]methyl}amine
To a stirred suspension of lithium aluminium hydride (1M solution in ether; 94.9 ml; 94.9 mmol) at −78° C. was added a solution of 8-(cyclopropylmethyl)-1,4-dioxaspiro[4.5]decane-8-carbonitrile (14 g;63.264 mmol) in ether (40 ml) over 30 minutes and the mixture stirred cold for 1 hour, then allowed to warm to ambient temperature and stirred for 3 hours. The resultant mixture was cooled in an ice bath and to the mixture was added in turn water (2 ml), 15% NaOH solution (2 ml) and water (2 ml). The resultant white granular solid was collected on a filter and rinsed twice with diethyl ether. The filtrate was evaporated to give the crude product as a colourless oil (12 g). 1H NMR δ (ppm)(CDCl3): 3.93 (4H, s), 2.68 (2H, s), 1.63-1.57 (4H, m), 1.54-1.48 (4H, m), 1.25 (2H, d, J=6.6 Hz), 0.65-0.50 (1H, m), 0.46-0.40 (2H, m), 0.02 (2H, q, J=4.9 Hz). MS (m/e)=226.

reactant | lithium aluminium hydride | 94.9 mmol, 1M, 94.9 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-(cyclopropylmethyl)-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 63.264 mmol, 14 g | C1(CC1)CC1(CCC2(OCCO2)CC1)C#N | C13H19NO2
reactant | water | 2 ml | O | H2O
reactant | NaOH | 2 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | ether | 40 ml | CCOCC | C4H10O
product | {[8-(Cyclopropylmethyl)-1,4-dioxaspiro[4.5]dec-8-yl]methyl}amine | 12 g | C1(CC1)CC1(CCC2(OCCO2)CC1)CN | C13H23NO2
